US04250121
Example 18 is repeated, while using 1 m.mole ruthenium trifluoroacetate instead of 1 m.mole ruthenium trichloride. 18 m.moles butanal and 46 m.moles dibutoxybutane have been formed. No butyric acid is present.

reactant | butanal | C(CCC)=O | C4H8O
catalyst | ruthenium trifluoroacetate | FC(C(=O)[O-])(F)F.[Ru+3].FC(C(=O)[O-])(F)F.FC(C(=O)[O-])(F)F
catalyst | ruthenium trichloride | [Ru](Cl)(Cl)Cl
product | dibutoxybutane | C(CCC)OC(C)C(C)OCCCC | C12H26O2
